US08278313B2
1′,3′-dihydrospiro[cycloheptane-1,2′-inden]-2-one
A solution of cycloheptanone (5.30 mL, 45.0 mmol) and 1,2-bis(bromomethyl)benzene (11.88 g, 45.0 mmol) in toluene (65 mL) was treated all at once with potassium tert-butoxide (10.10 g, 90 mmol). The reaction stirred for 20 hours at 85° C. After this time, the mixture was washed with 25 mL water and 65 mL of 15% HCl, then the aqueous washes were extracted three times with ether. The combined organics were washed with brine, dried over Na2SO4, and evaporated to a yellow oil, which was purified by chromatography on silica gel (93:7 to 85:15 EtOAc-hexane, eluant) to afford the title compound. 1H NMR (300 MHz, d6-DMSO) δ 7.09-7.18 (m, 4H), 3.26 (d, J=16.0 Hz, 2H), 2.75 (d, J=16.0, 2H), 2.59 (m, 2H), 1.84 (m, 2H), 1.57-1.66 (m, 4H), 1.47 (m, 2H). MS (DCI+) m/z 215 (M+H, 232 (M+NH4).

reactant | cycloheptanone | 45.0 mmol, 5.30 mL | C1(CCCCCC1)=O | C7H12O
reactant | 1,2-bis(bromomethyl)benzene | 45.0 mmol, 11.88 g | BrCC1=C(C=CC=C1)CBr | C8H8Br2
reactant | potassium tert-butoxide | 90 mmol, 10.10 g | CC(C)([O-])C.[K+]
solvent | toluene | 65 mL | C1(=CC=CC=C1)C | C7H8
product | 1′,3′-dihydrospiro[cycloheptane-1,2′-inden]-2-one | C1C2(CC3=CC=CC=C13)C(CCCCC2)=O | C15H18O
